### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Shift): commutation with pulled back shifts 

### PR DESCRIPTION
**Pull request by smorel394**
If we have shifts by an additive monoid `B` on categories `C` and `D`, if a functor `F : C ⥤ D` commutes with the shifts, and if we have a morphism of additive monoids `φ : A →+ B`, then `F` also commutes with the pullbacks of the shifts by `φ`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Shift/CommShift.lean [hunk 1]
```diff
@@ -47,6 +47,14 @@ noncomputable def isoZero : shiftFunctor C (0 : A) ⋙ F ≅ F ⋙ shiftFunctor
   isoWhiskerRight (shiftFunctorZero C A) F ≪≫ F.leftUnitor ≪≫
      F.rightUnitor.symm ≪≫ isoWhiskerLeft F (shiftFunctorZero D A).symm
 
+/-- For any functor `F : C ⥤ D` and any `a` in `A` such that `a=0`,
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Shift/CommShift.lean:50]:
```suggestion
/-- For any functor `F : C ⥤ D` and any `a` in `A` such that `a = 0`,
```

File: Mathlib/CategoryTheory/Shift/CommShift.lean [hunk 2]
```diff
@@ -47,6 +47,14 @@ noncomputable def isoZero : shiftFunctor C (0 : A) ⋙ F ≅ F ⋙ shiftFunctor
...
+this is the obvious isomorphism `shiftFunctor C a ⋙ F ≅ F ⋙ shiftFunctor D a` deduced from the
+isomorphisms `shiftFunctorZero'` on both categories `C` and `D`. -/
+@[simps!]
+noncomputable def isoZero' (a : A) (ha : a = 0) : shiftFunctor C a ⋙ F ≅ F ⋙ shiftFunctor D a :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Shift/CommShift.lean:54]: There should be a lemma saying `isoZero' _ _ 0 rfl` equals `isoZero`. It would make the proof of `commShiftIso_zero'` easier, because the proof would become something like `subst ha; rw [isoZero'_eq_isoZero, commShiftIso_zero]`.

File: Mathlib/CategoryTheory/Shift/Pullback.lean [hunk 3]
```diff
@@ -103,4 +118,49 @@ lemma pullbackShiftFunctorAdd'_hom_app :
...
+namespace CommShift
+
+variable {D : Type*} [Category D] [HasShift D B] (F : C ⥤ D) [F.CommShift B]
+
+open Functor in
+/-- If `F : C ⥤ D` commutes with the shifts on `C` and `D`, then it also commutes with
+their pullbacks by an additive map.
+-/
+@[simps]
+noncomputable def Pullback.CommShift :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Shift/Pullback.lean:130]: This should also be in the `Functor.CommShift` namespace, maybe as `Functor.CommShift.pullback`.

File: Mathlib/CategoryTheory/Shift/CommShift.lean (hunk 2 above)
Comment (smorel394) [reply Mathlib/CategoryTheory/Shift/CommShift.lean:54]: Done.

File: Mathlib/CategoryTheory/Shift/Pullback.lean (hunk 3 above)
Comment (smorel394) [reply Mathlib/CategoryTheory/Shift/Pullback.lean:130]: If `commShiftOp` is in the `Functor` namespace, would'nt it make sense to call this `Functor.commShiftPullback`?

Comment (smorel394) [reply Mathlib/CategoryTheory/Shift/Pullback.lean:130]: Otherwise I'd want to call the other`Functor.CommShift.op` (and `Functor.CommShift.unop`), for uniformity. But then if you open the `Functor.CommShift` namespace, then Lean might get confused about the meaning of `op`.

Comment (joelriou) [reply Mathlib/CategoryTheory/Shift/Pullback.lean]: Yes, `commShiftPullback` is good.

File: Mathlib/CategoryTheory/Shift/Pullback.lean [hunk 4]
```diff
@@ -74,6 +74,21 @@ lemma pullbackShiftFunctorZero_hom_app :
...
+    (shiftFunctorZero _ A).inv.app X = (shiftFunctorZero' C (φ 0) (by rw [map_zero])).inv.app X ≫
+    (pullbackShiftIso C φ 0 (φ 0) rfl).inv.app X := by
+  rw [pullbackShiftFunctorZero_inv_app]
+  simp only [Functor.id_obj, pullbackShiftIso, eqToIso.inv, eqToHom_app, shiftFunctorZero',
+    Iso.trans_inv, NatTrans.comp_app, eqToIso_refl, Iso.refl_inv, NatTrans.id_app, assoc]
+  erw [comp_id]
+
+lemma pullbackShiftFunctorZero'_hom_app :
+    (shiftFunctorZero _ A).hom.app X = (pullbackShiftIso C φ 0 (φ 0) rfl).hom.app X ≫
+    (shiftFunctorZero' C (φ 0) (by rw [map_zero])).hom.app X := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Shift/Pullback.lean:87]:
```suggestion
      (shiftFunctorZero' C (φ 0) (by rw [map_zero])).hom.app X := by
```

File: Mathlib/CategoryTheory/Shift/Pullback.lean [hunk 5]
```diff
@@ -74,6 +74,21 @@ lemma pullbackShiftFunctorZero_hom_app :
     pullbackShiftFunctorZero_inv_app, assoc, Iso.inv_hom_id_app_assoc, Iso.inv_hom_id_app]
   rfl
 
+lemma pullbackShiftFunctorZero'_inv_app :
+    (shiftFunctorZero _ A).inv.app X = (shiftFunctorZero' C (φ 0) (by rw [map_zero])).inv.app X ≫
+    (pullbackShiftIso C φ 0 (φ 0) rfl).inv.app X := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Shift/Pullback.lean:79]:
```suggestion
      (pullbackShiftIso C φ 0 (φ 0) rfl).inv.app X := by
```

File: Mathlib/CategoryTheory/Shift/Pullback.lean [hunk 6]
```diff
@@ -103,4 +118,48 @@ lemma pullbackShiftFunctorAdd'_hom_app :
...
+
+variable {D : Type*} [Category D] [HasShift D B] (F : C ⥤ D) [F.CommShift B]
+
+/-- If `F : C ⥤ D` commutes with the shifts on `C` and `D`, then it also commutes with
+their pullbacks by an additive map.
+-/
+@[simps]
+noncomputable def commShiftPullback :
+    F.CommShift A (C := PullbackShift C φ) (D := PullbackShift D φ)
+    where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Shift/Pullback.lean:131]:
```suggestion
    F.CommShift A (C := PullbackShift C φ) (D := PullbackShift D φ) where
```

File: Mathlib/CategoryTheory/Shift/Pullback.lean [hunk 7]
```diff
@@ -103,4 +118,47 @@ lemma pullbackShiftFunctorAdd'_hom_app :
...
+  iso a := isoWhiskerRight (pullbackShiftIso C φ a (φ a) rfl) F ≪≫
+    CommShift.iso (F := F) (φ a) ≪≫ isoWhiskerLeft _  (pullbackShiftIso D φ a (φ a) rfl).symm
+  zero := by
+    ext
+    simp only [comp_obj, Iso.trans_hom, isoWhiskerRight_hom, isoWhiskerLeft_hom, Iso.symm_hom,
+      NatTrans.comp_app, whiskerRight_app, whiskerLeft_app, CommShift.isoZero_hom_app,
+      pullbackShiftFunctorZero'_hom_app, id_obj, map_comp, pullbackShiftFunctorZero'_inv_app, assoc]
+    conv_lhs => congr; rfl; congr; change (F.commShiftIso (φ 0)).hom.app _
+                rw [F.commShiftIso_zero' (A := B) (φ 0) (by rw [map_zero])]
+    simp only [CommShift.isoZero'_hom_app, assoc]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Shift/Pullback.lean:140]: I would remove the `simps` attribute, because we should introduce an equational lemma where `φ a` is replace by any `b` such that `b = φ a`:
```suggestion
noncomputable def commShiftPullback :
    F.CommShift A (C := PullbackShift C φ) (D := PullbackShift D φ) where
  iso a := isoWhiskerRight (pullbackShiftIso C φ a (φ a) rfl) F ≪≫
    F.commShiftIso (φ a) ≪≫ isoWhiskerLeft _  (pullbackShiftIso D φ a (φ a) rfl).symm
  zero := by
    ext
    dsimp
    simp only [F.commShiftIso_zero' (A := B) (φ 0) (by rw [map_zero]), CommShift.isoZero'_hom_app,
      assoc, CommShift.isoZero_hom_app, pullbackShiftFunctorZero'_hom_app, map_comp,
      pullbackShiftFunctorZero'_inv_app]
    dsimp
    rfl
```

Comment (smorel394) [reply Mathlib/CategoryTheory/Shift/Pullback.lean:140]: Yeah ok.

File: Mathlib/CategoryTheory/Shift/Pullback.lean [hunk 8]
```diff
@@ -103,4 +118,47 @@ lemma pullbackShiftFunctorAdd'_hom_app :
...
+    simp only [comp_obj, Iso.trans_hom, isoWhiskerRight_hom, isoWhiskerLeft_hom, Iso.symm_hom,
+      NatTrans.comp_app, whiskerRight_app, whiskerLeft_app, CommShift.isoAdd_hom_app, map_comp,
+      assoc]
+    conv_lhs => congr; rfl; congr; change (F.commShiftIso (φ (a + b))).hom.app _
+                rw [F.commShiftIso_add' (a := φ a) (b := φ b) (by rw [φ.map_add])]
+    rw [← shiftFunctorAdd'_eq_shiftFunctorAdd, ← shiftFunctorAdd'_eq_shiftFunctorAdd]
+    rw [pullbackShiftFunctorAdd'_hom_app φ _ a b (a + b) rfl (φ a) (φ b) (φ (a + b)) rfl rfl rfl]
+    rw [pullbackShiftFunctorAdd'_inv_app φ _ a b (a + b) rfl (φ a) (φ b) (φ (a + b)) rfl rfl rfl]
+    simp only [CommShift.isoAdd'_hom_app, assoc, comp_obj, map_comp, NatTrans.naturality_assoc,
+      Iso.inv_hom_id_app_assoc]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Shift/Pullback.lean:152]:
```suggestion
    dsimp
    simp only [CommShift.isoAdd_hom_app, map_comp, assoc]
    dsimp
    rw [F.commShiftIso_add' (a := φ a) (b := φ b) (by rw [φ.map_add]),
      ← shiftFunctorAdd'_eq_shiftFunctorAdd, ← shiftFunctorAdd'_eq_shiftFunctorAdd,
      pullbackShiftFunctorAdd'_hom_app φ _ a b (a + b) rfl (φ a) (φ b) (φ (a + b)) rfl rfl rfl,
      pullbackShiftFunctorAdd'_inv_app φ _ a b (a + b) rfl (φ a) (φ b) (φ (a + b)) rfl rfl rfl]
    dsimp
    simp only [CommShift.isoAdd'_hom_app, assoc, map_comp, NatTrans.naturality_assoc,
      Iso.inv_hom_id_app_assoc]
```

Comment (smorel394) [reply Mathlib/CategoryTheory/Shift/Pullback.lean]: This suggestion doesn't compile. I did the `conv` + `congr` + `change` line because Lean was refusing to `rw` or even `erw` with `F.commShiftIso_add' (a := φ a) (b := φ b) (by rw [φ.map_add])`, and after your change it is refusing again.

Comment (joelriou) [reply Mathlib/CategoryTheory/Shift/Pullback.lean]: It does compile on my computer... (It is dependent on the previous suggestion which changes the `iso` field.)

Comment (smorel394) [reply Mathlib/CategoryTheory/Shift/Pullback.lean]: Gah, I thought the previous suggestion was only about removing the `@[simps]`...
